US08283354B2
To a solution of 4-chloro-2-(2-methoxyphenyl)quinazoline (1.0 g, 3.7 mmol) in 40 mL CH2Cl2 at −78° C. was added 5 equivalents of 1 M BBr3 dropwise. After complete addition the cooling bath was removed and the reaction was quenched with NaHCO3 after 90 minutes. The product was extracted twice with CH2Cl2, dried over Na2SO4, filtered, and concentrated. Purification via silica gel chromatography using 60:40 CH2Cl2: hexanes gave 2-(4-chloroquinazolin-2-yl)phenol (700 mg, 74%). LC/MS: m/z 257.1 (M+H)+ at 3.75 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)). 1H NMR (400 MHz, DMSO-d6) δ 8.44 (m, 1H), 8.24 (m, 3H), 7.89 (m, 1H), 7.49 (m, 1H), 7.05 (m, 2H).

reactant | 4-chloro-2-(2-methoxyphenyl)quinazoline | 3.7 mmol, 1.0 g | ClC1=NC(=NC2=CC=CC=C12)C1=C(C=CC=C1)OC | C15H11ClN2O
reactant | BBr3 | 1 M, 5 equivalents | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-chloroquinazolin-2-yl)phenol | 700 mg, 74% | ClC1=NC(=NC2=CC=CC=C12)C1=C(C=CC=C1)O | C14H9ClN2O
